US07662812B2
3-Benzyl-methyl-3,8-diazabicyclo[3.2.1]octane (Intermediate compound)
To a solution of 3-benzyl-8-methyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione (28.3 g; 0.116 mol) in 200 ml of absolute dioxane LiAlH4 (7.6 g; 0.2 mol) was added and the mixture boiled under argon for 18 hours. Then a mixture of water (7.5 ml) and dioxane (40 ml) was added drop-wise to the reaction mixture. The suspension was mixed for 20 minutes and filtered trough a dense glass filter. The filtrate was evaporated and the residue was distilled on Büchi oven for distillation at 120° C. and 0.1 mbar. Yield 17.6 g (70%).

reactant | 3-benzyl-8-methyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione | 0.116 mol, 28.3 g | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2C)=O | C14H16N2O2
reactant | dioxane LiAlH4 | 0.2 mol, 200 ml, 7.6 g | O1CCOCC1.[H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 7.5 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3-Benzyl-methyl-3,8-diazabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1CC2(CCC(C1)N2)C | C14H20N2
